US04214097
To a solution of 46 mg of sodium in a mixture of 12ml of t-butanol and 6 ml of benzene was added, at room temperature, 709 mg of ethyl 4-bromo-6,6,6-trichloro-3,3-dimethylhexanoate. The mixture was treated as described in Example XII A to produce 470 mg (86% yield) of ethyl 2-(β,β,β-trichloroethyl)-3,3-dimethylcyclopropanecarboxylate.

reactant | sodium | 46 mg | [Na] | Na
reactant | ethyl 4-bromo-6,6,6-trichloro-3,3-dimethylhexanoate | 709 mg | BrC(C(CC(=O)OCC)(C)C)CC(Cl)(Cl)Cl | C10H16BrCl3O2
solvent | t-butanol | 12ml | C(C)(C)(C)O | C4H10O
solvent | benzene | 6 ml | C1=CC=CC=C1 | C6H6
product | ethyl 2-(β,β,β-trichloroethyl)-3,3-dimethylcyclopropanecarboxylate | 470 mg, 86% yield | ClC(CC1C(C1(C)C)C(=O)OCC)(Cl)Cl | C10H15Cl3O2
